US06573270B1
tert-butyl 3-[2-(acetyloxy)ethoxy]-5-({[4-(tert-butyl)phenyl]sulfonyl}amino)-1-methyl-1H-pyrazole-4-carboxylate
To tert-butyl 3-[2-(acetyloxy)ethoxy]-5-amino-1-methyl-1H-pyrazole-4-carboxylate (Preparation 10) (70 g) in solution in tetrahydrofuran (1 lit.) at 0° C. was added sodium hydride (20.2 g of a 60% dispersion in oil). The reaction mixture was stirred at room temperature for one hour and then 4-(tert-butyl)benzenesulfonyl chloride (58.88 g) was added dropwise. The reaction mixture was stirred at room temperature overnight and was then diluted with water (200 ml) at 0° C., followed by a saturated solution of ammonium chloride (200 ml) while allowing the mixture to warm to room temperature. The white precipitate was filtered off and disposed of. The aqueous and organic layers were separated and the aqueous extracted with ethyl acetate (100 ml). The combined organics were dried on magnesium sulfate, filtered and concentrated under reduced pressure. The crude was purified by chromatography on a suction column packed with silica eluted with ethyl acetate:hexane (1:4) to yield the desired product as white solid (16 g).

reactant | tert-butyl 3-[2-(acetyloxy)ethoxy]-5-amino-1-methyl-1H-pyrazole-4-carboxylate | 70 g | C(C)(=O)OCCOC1=NN(C(=C1C(=O)OC(C)(C)C)N)C | C13H21N3O5
reactant | sodium hydride | [H-].[Na+]
reactant | 4-(tert-butyl)benzenesulfonyl chloride | 58.88 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
reactant | ammonium chloride | 200 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 1 lit. | O1CCCC1 | C4H8O
solvent | water | 200 ml | O | H2O
product | tert-butyl 3-[2-(acetyloxy)ethoxy]-5-({[4-(tert-butyl)phenyl]sulfonyl}amino)-1-methyl-1H-pyrazole-4-carboxylate | 16 g | C(C)(=O)OCCOC1=NN(C(=C1C(=O)OC(C)(C)C)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)C | C23H33N3O7S
